data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_195215_1,[N:1]([C:2](=[N:5]\[H:13])/[C:6](=[N:7]\[N:8]([H:14])[H:15])[H:16])([N:3]([H:9])[H:10])[N:4]([H:11])[H:12]>>[N:1](/[C:2]([N:5]([H:13])[H:14])=[C:6](/[N:7]=[N:8]\[H:15])[H:16])([N:3]([H:9])[H:10])[N:4]([H:11])[H:12],41.97347500000049
MR_172278_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:5]([H:15])[H:16])/[N:6]=[N:7]\[H:11])([N:4]([H:9])[H:10])[H:8]>>[C@@:1]1([C:2]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])[C@:3](/[N:6]=[N:7]\[H:11])([H:8])[C:5]1([H:15])[H:16],64.63877499998958
MR_230281_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:19])=[C:3]([N:5]([H:9])[H:10])/[N:8]=[C:7](\[N:6]([H:11])[H:12])[H:13])([H:14])([H:15])[H:18]>>[C:1]([C:4]1([C:2]([H:16])([H:17])[H:19])[C:3]([N:5]([H:9])[H:10])=[N:8][C:7]1([N:6]([H:11])[H:12])[H:13])([H:14])([H:15])[H:18],44.60897500001664
MR_96578_0,[C:1]1([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:2]([C:7]([C:6]([H:18])([H:19])[H:20])=[O:8])([H:9])[C:3]1([H:10])[H:11]>>[C:1]1([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:3]([H:10])([H:11])[C:2]([H:9])=[C:7]([C:6]([H:18])([H:19])[H:20])[O:8]1,44.50355499996178
MR_75725_0,[C:1]([C:2](=[C:4]([H:11])[H:12])[O:5][H:6])([N:3]([H:7])[H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]([H:11])[H:12])[H:10])([N:3]([H:7])[H:8])([O:5][H:6])[H:9],69.2408599999986
MR_609627_0,[C@:1]12([H:8])[C:2]([H:9])([H:10])[N:5]1[C:6]([C:3]([H:11])([H:12])[H:13])=[C:7]2[C:4]([H:14])([H:15])[H:16]>>[C:1]1([H:8])=[C:7]([C:4]([H:14])([H:15])[H:16])[C@:6]2([C:3]([H:11])([H:12])[H:13])[C:2]([H:9])([H:10])[N:5]12,36.9974000000083
MR_16926_0,[C:1]([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])([O:5][C:4]([O:6][H:8])=[O:7])[H:9]>>[C:1]([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])([O:7][C:4](=[O:5])[O:6][H:8])[H:9],49.48590500000947
MR_525643_2,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3]([C:5](=[N:6]/[H:10])\[H:12])/[O:7][C:4](=[O:8])[H:11])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3](/[C:5](=[N:6]\[H:10])[H:12])=[O:7])([C:4](=[O:8])[H:11])[H:9],47.20368749999309
MR_217281_1,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:5]\[H:7])(/[C:4](=[N:6]/[H:8])[H:11])([H:9])[H:10]>>[C:1](=[C:4]([N:6](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:5]\[H:7])[H:8])[H:11])([H:9])[H:10],61.001157499971015
MR_322314_0,[C:1]([C:2]([C:5]([H:21])([H:22])[H:23])([O:9][N:7]([H:13])[H:14])[H:10])([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])[O:8][N:6]([H:11])[H:12]>>[C:1]([C:2]([C:5]([H:21])([H:22])[H:23])([O:8][N:6]([H:11])[H:12])[H:10])([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])[O:9][N:7]([H:13])[H:14],59.75243249998485
MR_435658_0,[C:1](/[C:2](=[C:4](\[N:3]([H:7])[H:8])[H:9])[N:6]=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]1=[N:6][C:5]([H:13])([H:14])[C:4]1([N:3]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12],30.881785000039628
MR_71391_0,[C:1]([C:3](=[C:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[O:6][H:7])([H:12])([H:13])[H:14]>>[C:1]([C:3]1([H:7])[C:2]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[O:6]1)([H:12])([H:13])[H:14],51.340167500000575
MR_15991_1,[C:1]([C:3]([H:19])([H:20])[H:21])([N:4]([C:2]([H:16])([H:17])[H:18])[H:9])(/[C:5]([N:6]([H:11])[H:12])=[C:8](/[N:7]([H:13])[H:14])[H:15])[H:10]>>[C:1]1([C:3]([H:19])([H:20])[H:21])([H:10])[C:5]([N:4]([C:2]([H:16])([H:17])[H:18])[H:9])([N:6]([H:11])[H:12])[C:8]1([N:7]([H:13])[H:14])[H:15],56.58481249999241
MR_441328_0,[C@:1]([C:2]([O:6][H:7])([H:13])[H:14])([N:4]([H:11])[H:12])([O:5][N:3]([H:9])[H:10])[H:8]>>[C:1]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])([O:5][C:2]([O:6][H:7])([H:13])[H:14])[H:8],69.35694750002654
MR_651740_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([N:5]([N:7]=[O:8])[H:10])[C:6]([C:4]([H:17])([H:18])[H:19])=[O:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([N:5]([C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])[H:10])[N:7]=[O:8],72.7925100000202
MR_427451_1,[C@:1]1([C:4]([H:14])([H:15])[H:16])([O:7][C:3]([H:11])([H:12])[H:13])[C@@:2]([N:5]([H:9])[H:10])([H:8])[O:6]1>>[C@@:1]1([C:4]([H:14])([H:15])[H:16])([H:8])[C@:2]([N:5]([H:9])[H:10])([O:7][C:3]([H:11])([H:12])[H:13])[O:6]1,44.60395499999365
MR_127133_1,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:9])(/[N:5]=[N:6]/[C:2]([H:10])([H:11])[H:12])[H:8]>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[N:5]/[N:6]([C:2]([H:10])([H:11])[H:12])[C:4](=[O:7])[H:9])[H:8],50.55641999998187
MR_311892_0,[C:1](/[N:8]=[C:5](\[C:2]([H:13])([H:14])[H:15])[C:6]([C:3]([H:16])([H:17])[H:18])[C:7]([C:4]([H:19])([H:20])[H:21])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:8]1[C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([C:3]([H:16])([H:17])[H:18])[C@@:7]1([C:4]([H:19])([H:20])[H:21])[H:9])([H:10])([H:11])[H:12],42.501830000021954
MR_100336_1,[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])(/[C:4]([N:6]([H:11])[H:12])=[C:8](/[N:7]([H:13])[H:14])[H:15])[N:5]([H:9])[H:10]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])=[C:4]([N:6]([H:11])[H:12])[C:8]([N:5]([H:9])[H:10])([N:7]([H:13])[H:14])[H:15],62.31074999998185
